US06235936B1
Synthesis of 3-Ethoxyacetyl-2-methylbenz[g]indole
N-(1-Naphthyl)-benzophenone hydrazone (1.0 equiv., 1.0 mmol, 322 mg), levulinic acid (1.5 equiv., 1.5 mmol, 0.18 mL), and TsOH.H2O (2 equiv., 2 mmol mmol, 380 mg) were dissolved in ethanol (10 mL) and heated to reflux for 15 hours. The reaction mixture was then cooled to room temperature, diluted with Et2O (5 mL), neutralized with a saturated NaHCO3 solution, and extracted with Et2O (3×10 mL). The organic extracts were then dried over Na2SO4, filtered and concentrated under vacuum. Purification by flash column chromatography (20% EtOAc/Hex) gave the title product as a yellow oil (238 mg, 0.89 mmol, 89% yield).

reactant | N-(1-Naphthyl)-benzophenone hydrazone | 1.0 mmol, 322 mg, 1.0 equiv. | C1(=CC=CC2=CC=CC=C12)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2
reactant | levulinic acid | 1.5 mmol, 0.18 mL, 1.5 equiv. | C(CCC(=O)C)(=O)O | C5H8O3
reactant | TsOH.H2O | 2 mmol, 380 mg, 2 equiv. | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 3-Ethoxyacetyl-2-methylbenz[g]indole | 0.89 mmol, 238 mg, 89% yield | C(C)OCC(=O)C1=C(NC2=C3C(=CC=C12)C=CC=C3)C | C17H17NO2
